US04277393
(16) Production of BOC-Phe-Pro-OBzl
To 121 g of H-Pro-OBzl·HCl, 400 ml of THF was added and 70 ml of triethylamine was added dropwise thereto under cooling with stirring. Further, 100 ml of THF and 50 ml of chloroform were added thereto. To the resultant mixture, 132 g of BOC-Phe-OH was added and 113 g of DCC dissolved in 100 ml of chloroform was added dropwise under cooling with stirring over a period of 1 hour. The mixture was stirred at a temperaturebelow 10° C. and after 16 hours, 5 ml of acetic acid was added thereto under cooling. After stirring for an additional 2 hours, the insoluble materials were removed by filtration and the filtrate was washedwith THF and concentrated in vacuo. The resultant oily residue was dissolved in 1 liter of ethyl acetate and the insoluble materials were removed by filtration. The filtrate was washed with water, 1 N hydrochloric acid, water, a 5% sodium bicarbonate aqueous solution and water, dried over magnesium sulfate and concentrated in vacuo. The resultant oily residue was dissolved in diethyl ether and crystallized by addition of n-hexane. The crystals were recrystallized from ethyl acetate-n-hexane to obtain 169 g (yield: 74.8%) of the desired material having a melting point of 104°-106° C.

reactant | H-Pro-OBzl·HCl | 121 g | N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1.Cl
reactant | BOC-Phe-OH | 132 g | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C14H19NO4
reactant | DCC | 113 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | triethylamine | 70 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | BOC-Phe-Pro-OBzl | 169 g, yield: 74.8% | N([C@@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C26H32N2O5
